US06538137B1
Preparation of methyl 3-bromo-5-(hydroxymethyl)benzoate
In 25 ml of tetrahydrofuran, was dissolved 10.00 g of dimethyl 3-bromoisophthalate. 1.66 g of sodium borohydride was added to the above solution and thereby a suspension was obtained. A mixed solution of 7.4 ml of methanol and 25 ml of tetrahydrofuran was slowly dropped into the resulting suspension. After completing the dropping, the reaction solution was refluxed for 30 minutes. A 1 M hydrochloric acid was added to the solution to quench the reaction. The resulting solution was extracted with ethyl acetate, and the organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure to afford 9.30 g of the title compound as a colorless oil quantitatively.

reactant | dimethyl 3-bromoisophthalate | 10.00 g | BrC1(CC(C(=O)OC)=CC=C1)C(=O)OC | C10H11BrO4
reactant | sodium borohydride | 1.66 g | [BH4-].[Na+]
reactant | methanol | 7.4 ml | CO | CH4O
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | methyl 3-bromo-5-(hydroxymethyl)benzoate | 9.30 g | BrC=1C=C(C(=O)OC)C=C(C1)CO | C9H9BrO3
